US05478822
Step 1, 1-Benzyl-1H-1-benzazepin-7-carboxaldehyde
Phosphorus oxychloride (1.9 ml, 20.4 retool) was added to DMF (10 ml) at ambient temperature and the mixture was stirred for 30 minutes under nitrogen atmosphere. To the mixture was added crude 1-benzyl-1H-1-benzazepine (3.23 g, 13.6 mmol) in DMF (5 ml) at ambient temperature. The mixture was stirred at ambient temperature for 1 hour and at 70° C. for 2 hours. Water (35 ml) was added and the mixture was stirred for 10 minutes. The mixture was extracted with EtOAc (2×100 ml) and the combined extracts were washed with H2O (2×50 ml), saturated NaHCO3 solution (50 ml) and brine (50 ml). The solution was dried over MgSO4 and concentrated in vacuo affording the title compound as a brown oil (3.42 g).

reactant | Phosphorus oxychloride | 1.9 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 1-benzyl-1H-1-benzazepine | 13.6 mmol, 3.23 g | C(C1=CC=CC=C1)N1C=CC=CC2=C1C=CC=C2 | C17H15N
reactant | Water | 35 ml | O | H2O
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1-Benzyl-1H-1-benzazepin-7-carboxaldehyde | 3.42 g | C(C1=CC=CC=C1)N1C=CC=CC2=C1C=CC(=C2)C=O | C18H15NO
